US07576072B2
Step G: Preparation of 6-acetyl-5-chloro-4-fluoro-3-(2-fluorophenylamino)-pyridine-2-carboxylic acid methyl ester:
A mixture of 5-chloro-4-fluoro-3-(2-fluorophenylamino)-6-trimethylsilanylethynyl-pyridine-2-carboxylic acid methyl ester (1.00 equivalent), HgSO4 (1.00 equivalent), and conc. H2SO4 (2.00 equivalents) in acetone-water is refluxed with stirring for 3 hours. The reaction mixture is concentrated in vacuo, diluted with EtOAc, and washed with water and brine. The organic layer is dried over MgSO4, filtered, and concentrated in vauco to give the crude material that is purified by trituration or flash column chromatography to afford the desired product as necessary.

reactant | 5-chloro-4-fluoro-3-(2-fluorophenylamino)-6-trimethylsilanylethynyl-pyridine-2-carboxylic acid methyl ester | 1.00 equivalent | COC(=O)C1=NC(=C(C(=C1NC1=C(C=CC=C1)F)F)Cl)C#C[Si](C)(C)C | C18H17ClF2N2O2Si
reactant | H2SO4 | 2.00 equivalents | OS(=O)(=O)O | H2O4S
solvent | acetone water | CC(=O)C.O
product | 6-acetyl-5-chloro-4-fluoro-3-(2-fluorophenylamino)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C(=C1NC1=C(C=CC=C1)F)F)Cl)C(C)=O | C15H11ClF2N2O3
